US06653471B2
Ethyl chloroformate (66 μL) is added dropwise to an ice-cold mixture of 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide (192 mg), triethylamine (0.33 mL), and N,N-dimethylformamide (5 mL). The mixture is stirred at 0° for 1 hour then at room temperature for 30 minutes. 2-Fluoro-4-isopropoxyaniline (66 mg) is added and the mixture is stirred at room temperature for 18 hours. The mixture is diluted with ethyl acetate (50 mL) then treated with water (25 mL), and extracted with ethyl acetate (3×50 mL). The combined organic layers are washed with water (2×20 mL) and brine (1×20 mL), dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by preparative thin layer chromatography on silica gel, eluting with diethyl ether, to give a brown solid. This is treated with ethanol (2 mL) and saturated aqueous potassium carbonate solution (1 mL) and the mixture is heated at 600 for 30 minutes. The mixture is cooled to room temperature and diluted with water (3 mL) and extracted with ethyl acetate (3×30 mL). The combined organic layers are washed with brine (1×10 mL), dried over magnesium sulfate, and concentrated in vacuo. The oily residue is purified by preparative thin layer chromatography on silica gel, eluting with 10% methanol in dichloromethane, to give 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid (2-fluoro-4-isopropoxyphenyl)amide, pale yellow solid, 10 mg: LRMS calcd 368.40, found [M+H] 369.2.

reactant | Ethyl chloroformate | 66 μL | ClC(=O)OCC | C3H5ClO2
reactant | 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide | 192 mg | Br.CC1N2C=CN=C2C=2C(=CNC2C1)C(=O)O
reactant | 2-Fluoro-4-isopropoxyaniline | 66 mg | FC1=C(N)C=CC(=C1)OC(C)C | C9H12FNO
reactant | potassium carbonate | 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.33 mL | C(C)N(CC)CC | C6H15N
product | 4-methyl-5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid (2-fluoro-4-isopropoxyphenyl)amide | FC1=C(C=CC(=C1)OC(C)C)NC(=O)C1=CNC=2CC(N3C=CN=C3C12)C | C20H21FN4O2
